US08420629B2
Step 3. 3-[tert-butyl(diphenyl)silyl]oxy-N-methoxy-N-methylcyclobutanecarboxamide
Into a solution of 3-hydroxy-N-methoxy-N-methylcyclobutanecarboxamide (0.6 g, 0.004 mol in DMF (10 mL) was added tert-butylchlorodiphenylsilane (3 mL, 0.01 mol), followed by 1H-imidazole (1 g, 0.02 mol). The mixture was stirred at rt over night. The reaction was diluted with dichloromethane and washed with sat. NaHCO3, water and brine. The organic layers were dried over MgSO4, concentrated and purified with Combiflash (silica gel, 0-30% EtOAc/Hex) to give the desired product (0.7 g, 50%) as cis- and trans-isomer mixtures. LCMS calculated for C23H32NO3Si(M+H)+: 398.2. Found: 398.1.

reactant | 3-hydroxy-N-methoxy-N-methylcyclobutanecarboxamide | OC1CC(C1)C(=O)N(C)OC | C7H13NO3
reactant | tert-butylchlorodiphenylsilane | 0.01 mol, 3 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | 1H-imidazole | 0.02 mol, 1 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[tert-butyl(diphenyl)silyl]oxy-N-methoxy-N-methylcyclobutanecarboxamide | 0.7 g, 50% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC(C1)C(=O)N(C)OC | C23H31NO3Si
